US07468375B2
Step 5: Ethyl 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate.
To a stirred solution of ethyl 1-(4-fluorobenzyl)-4-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (10.0 g, 22.4 mmol) and ethoxyvinyl tributyltin [prepared according to A. Leusik, H. A. Budding, J. W. Marsman, J. Organomet. Chem., 1967, 9, 285-294] (9.7 g, 26.9 mmol, mixture of E-1,2: Z-1,2: 1:1, ratio=1:0.3:0.1) in DMF (30 mL) under a nitrogen atmosphere were added triethylamine (3.2 mL, 22.4 mmol) and dichlorobis(triphenylphosphine)palladium(II) (1.0 g, 1.4 mmol). The resulting mixture was heated to 140° C. for 10 minutes. It was quenched with aq NaHCO3 solution, and extracted with ethyl acetate. The organic layer was washed with brine (2×), dried over sodium sulfate, concentrated in vacuo and purified by Biotage flash chromatography. Elution with hexane:ethyl acetate (3:2) provided the title compound as a brown glue (1.0 g pure E-isomer) and 7.7 g of a mixture of E, Z and alpha with ratio=1:0.3:0.4). 1H NMR (DMSO-d6) δ; 8.69 (s, 1H), 7.85 (d, J=3.3 Hz, 1H), 7.33 (t, J=6.8 Hz, 2H), 7.13-7.20 (m, 3H), 6.86 (d, J=3.3 Hz, 1H), 6.43 (d, J=13 Hz, 1H), 5.55 (s, 2H), 4.27 (q, J=7.2 Hz, 2H), 3.98 (q, J=7.0 Hz, 2H), 1.29 (t, J=7.1 Hz, 6H). LCMS (APCI, M+H+): 369.1.

reactant | ethyl 1-(4-fluorobenzyl)-4-{[(trifluoromethyl)sulfonyl]oxy}-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 22.4 mmol, 10.0 g | FC1=CC=C(CN2C=CC=3C2=CN=C(C3OS(=O)(=O)C(F)(F)F)C(=O)OCC)C=C1 | C18H14F4N2O5S
reactant | ethoxyvinyl tributyltin | C(C)OC=C[Sn](CCCC)(CCCC)CCCC
reactant | triethylamine | 22.4 mmol, 3.2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1.4 mmol, 1.0 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethyl 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | C(C)O/C=C/C1=C2C(=CN=C1C(=O)OCC)N(C=C2)CC2=CC=C(C=C2)F | C21H21FN2O3
